US05708008
To a solution of 2.0 gm (5.74 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole dihydrochloride monoethanolate and 5.0 mL (36 mMol) triethylamine in 100 mL dichloromethane were added 1.37 mL (12.6 mMol) phenyl isocyanate. The reaction mixture was stirred for 15 minutes and was then washed with 100 mL of water. The remaining organics were dried over sodium sulfate and concentrated under reduced pressure. The resultant residue was crystallized from acetonitrile to give 1.40 gm (70%) N-phenyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea. This material was dissolved in methanol and to it was added an equivalent of methanolic hydrogen chloride. The solution was then concentrated under reduced pressure and the residual oil crystallized from ethanol to give the title compound.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole dihydrochloride monoethanolate | 5.74 mMol, 2.0 gm | C(C)[O-].Cl.Cl.NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C
reactant | triethylamine | 36 mMol, 5.0 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 12.6 mMol, 1.37 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | N-phenyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 1.40 gm, 70% | C1(=CC=CC=C1)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H24N4O
